US08895547B2
(S)-3-[5-(3-Bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-phenylpropan-1-ol
To detach the protecting group, 20 mg of [5-(3-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine were dissolved in 1 ml of methanol and, after addition of 0.05 ml of concentrated hydrochloric acid, the mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated by rotary evaporation and the residue purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined, the acetonitrile was removed under reduced pressure, and the aqueous residue was basified with saturated aqueous sodium hydrogencarbonate solution. Subsequently, this aqueous residue was extracted with ethyl acetate, and the combined organic phases were dried using a cartridge containing diatomaceous earth (Varian Chem Elut®) and concentrated by rotary evaporation. The residue was taken up again in a mixture of acetonitrile and water and lyophilized. This gave the product (10.2 mg) with a molecular weight of 481.4 g/mol (C21H25BrN2O4S); MS (ESI): m/e=482 (M+H+).

reactant | [5-(3-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine | 20 mg | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)N[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)(=O)=O)C | C27H39BrN2O4SSi
reactant | hydrochloric acid | 0.05 ml | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | (S)-3-[5-(3-Bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-phenylpropan-1-ol | 10.2 mg | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)N[C@@H](CCO)C1=CC=CC=C1)(=O)=O)C | C21H25BrN2O4S
